US08981085B2
A mixture of trans-tert-butyl 4-fluoro-3-(tosyloxy)piperidine-1-carboxylate (3.95 g, 10.6 mmol) and NaN3 (1.72 g, 26.4 mmol) in DMF (30 mL) was stirred at 128° C. (bath) for 18 hours. After cooling to room temperature, ether (100 mL) was added. The mixture was washed with brine (2×50 mL), dried (sodium sulfate) and concentrated in vacuo. The residue obtained was purified by flash chromatography on silica gel (hexane:ethyl acetate 4:1) to give cis-tert-butyl 3-azido-4-fluoropiperidine-1-carboxylate (1.40 g, 54%).

reactant | trans-tert-butyl 4-fluoro-3-(tosyloxy)piperidine-1-carboxylate | 10.6 mmol, 3.95 g | F[C@H]1[C@@H](CN(CC1)C(=O)OC(C)(C)C)OS(=O)(=O)C1=CC=C(C)C=C1 | C17H24FNO5S
reactant | NaN3 | 26.4 mmol, 1.72 g | [N-]=[N+]=[N-].[Na+]
reactant | ether | 100 mL | CCOCC | C4H10O
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | cis-tert-butyl 3-azido-4-fluoropiperidine-1-carboxylate | 1.40 g, 54% | N(=[N+]=[N-])[C@@H]1CN(CC[C@@H]1F)C(=O)OC(C)(C)C | C10H17FN4O2
